### PR TITLE
[Merged by Bors] - feat: the spectrum of a diagonal matrix is the range of the diagonal

### PR DESCRIPTION
**Pull request by JonBannon**
We add various theorems that assert the spectrum of a diagonal matrix is the range of the diagonal viewed as a function.

Co-Authored by @j-loreaux

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean [hunk 1]
```diff
@@ -578,3 +578,54 @@ lemma map_add_of_iInf_genEigenspace_ne_bot_of_commute [NoZeroSMulDivisors R M]
...
+      exact (hasEigenvector_toLin'_diagonal d i).apply_eq_smul
+    have hμ_not_mem : μ ∉ Set.range d := by simpa using fun i ↦ (hμ i)
+    have := eigenspaces_independent (toLin' (diagonal d)) |>.disjoint_biSup hμ_not_mem
+    rw [h_iSup, disjoint_top] at this
+    exact h_eig this
+  · rintro ⟨i, rfl⟩
+    exact this i
+
+/-- The spectrum of the diagonal operator is the range of the diagonal viewed as a function. -/
+lemma Matrix.spectrum_diagonal (d : n → R) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Eigenspace/Basic.lean:624]: This is probably sensible as a `simp` lemma.

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean [hunk 2]
```diff
@@ -578,3 +578,54 @@ lemma map_add_of_iInf_genEigenspace_ne_bot_of_commute [NoZeroSMulDivisors R M]
 end End
 
 end Module
+
+section SpectrumDiagonal
+
+variable {R : Type*} [Field R] {n : Type*} [DecidableEq n][Fintype n]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Eigenspace/Basic.lean:584]: style nit:
```suggestion
variable {R : Type*} [Field R] {n : Type*} [DecidableEq n] [Fintype n]
```

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean [hunk 3]
```diff
@@ -578,3 +578,54 @@ lemma map_add_of_iInf_genEigenspace_ne_bot_of_commute [NoZeroSMulDivisors R M]
...
+
+open Module.End
+
+/--  Standard basis vectors are eigenvectors of any associated diagonal linear operator. -/
+lemma Matrix.hasEigenvector_toLin'_diagonal (d : n → R) (i : n) :
+    Module.End.HasEigenvector (Matrix.toLin' (diagonal d)) (d i) (Pi.basisFun R n i) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Eigenspace/Basic.lean:590]: Is this also true for something like
```suggestion
    Module.End.HasEigenvector (Matrix.toLin b b (diagonal d)) (d i) (b i) := by
```
for some `b : Basis _ _ _`? If so, it would be good to have both versions, preferably with one proof using the other.

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean [hunk 4]
```diff
@@ -578,3 +578,54 @@ lemma map_add_of_iInf_genEigenspace_ne_bot_of_commute [NoZeroSMulDivisors R M]
...
 end Module
+
+section SpectrumDiagonal
+
+variable {R : Type*} [Field R] {n : Type*} [DecidableEq n][Fintype n]
+
+open Module.End
+
+/--  Standard basis vectors are eigenvectors of any associated diagonal linear operator. -/
+lemma Matrix.hasEigenvector_toLin'_diagonal (d : n → R) (i : n) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Eigenspace/Basic.lean:589]: This is the first mention of `Matrix` in this file; perhaps that means this content would be better in a new `EigenSpace/Matrix.lean` file?

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean (hunk 3 above)
Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean:590]: I'll look into this. Thanks!

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean (hunk 4 above)
Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean:589]: Cool. Let me confer with Jireh about how best to do this.

Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean:589]: @eric-wieser : Should I create this new file and move the result as part of this PR, or should I handle this in another PR? (I'm still trying to get the hang of this!)

Comment (j-loreaux) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean:589]: Yes, just make the new file and move this result into it as part of this PR. Generally, I would recommend basing what should constitute a separate PR in terms of semantically / mathematically distinct content (although there can be exceptions to this).

On a separate note: the `b : Basis _ _ _` from the other comment above probably should also apply here.

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 5]
```diff
@@ -0,0 +1,75 @@
...
+section SpectrumDiagonal
+
+variable {R : Type*} [Field R] {n : Type*} [DecidableEq n] [Fintype n] (M : Type*)
+  [AddCommGroup M] [Module R M]
+
+open Matrix
+open Module.End
+
+/-- Basis vectors are eigenvectors of associated diagonal linear operator. -/
+lemma hasEigenvector_toLin_basis_diagonal (d : n → R) (i : n) (b : Basis n R M) :
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:30]: Probably `basis` doesn't need to be in the name.

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 6]
```diff
@@ -0,0 +1,75 @@
...
+    all_goals simp_all
+  · exact Basis.ne_zero b i
+
+/--  Standard basis vectors are eigenvectors of any associated diagonal linear operator. -/
+lemma hasEigenvector_toLin'_diagonal (d : n → R) (i : n) :
+    Module.End.HasEigenvector (toLin' (diagonal d)) (d i) (Pi.basisFun R n i) :=
+  hasEigenvector_toLin_basis_diagonal (d : n → R) (i : n) (b := Pi.basisFun R n)
+
+/-- Eigenvalues of a diagonal linear operator are the diagonal entries. -/
+lemma hasEigenvalue_toLin'_diagonal_iff (d : n → R) {μ : R} :
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:45]: This should have a `toLin` generalization.

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean (hunk 5 above)
Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:30]: Yeah, I wasn't too sure about this. Do you think this is a case where one of these is given a prime and the other isn't? I'm not really sure of a good name for this result...

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean (hunk 6 above)
Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:45]: Ah! I just learned something new. So, `toLin` is the general basis version, and `toLin'` is the `PiLp 2` version? 

Thanks for the clarification on this. (I assume this was what your previous suggestion about basis _ _ _ was referring to?)

Comment (j-loreaux) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean]: Actually, `toLin'` is just the standard basis version, but with the max norm. `toEuclideanLin` is the `PiLp 2` version.

**Comment by JonBannon** [comment]
Ah, cool. To clarify, we want the standard basis version here, right?
Should I provide versions for toEuclideanLin as well?

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 7]
```diff
@@ -0,0 +1,81 @@
...
+
+/-- Basis vectors are eigenvectors of associated diagonal linear operator. -/
+lemma hasEigenvector_toLin_diagonal (d : n → R) (i : n) (b : Basis n R M) :
+    Module.End.HasEigenvector (toLin b b (diagonal d)) (d i) (b i) := by
+  constructor
+  · refine mem_eigenspace_iff.mpr ?left.a
+    simp only [diagonal, Pi.basisFun_apply, toLin'_apply, mulVec_stdBasis_apply, transpose_apply,
+      of_apply, Pi.smul_apply, LinearMap.stdBasis_apply', smul_eq_mul, mul_ite, mul_one, mul_zero]
+    all_goals simp_all
+  · exact Basis.ne_zero b i
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:37]: :golfing:
```suggestion
    Module.End.HasEigenvector (toLin b b (diagonal d)) (d i) (b i) :=
  ⟨mem_eigenspace_iff.mpr <| by simp [diagonal], Basis.ne_zero b i⟩
```

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 8]
```diff
@@ -0,0 +1,81 @@
...
+
+/--  Standard basis vectors are eigenvectors of any associated diagonal linear operator. -/
+lemma hasEigenvector_toLin'_diagonal (d : n → R) (i : n) :
+    Module.End.HasEigenvector (toLin' (diagonal d)) (d i) (Pi.basisFun R n i) :=
+  hasEigenvector_toLin_diagonal (d : n → R) (i : n) (b := Pi.basisFun R n)
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:42]: Lean can infer most of the arguments. You really only need to provide the basis.
```suggestion
  hasEigenvector_toLin_diagonal _ _ _ <| Pi.basisFun R n
```

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 9]
```diff
@@ -0,0 +1,81 @@
...
+over a field.
+
+## Tags
+eigenspace, eigenvector, eigenvalue, eigen, spectrum, matrices, matrix
+
+-/
+
+section SpectrumDiagonal
+
+variable {R : Type*} [Field R] {n : Type*} [DecidableEq n] [Fintype n] (M : Type*)
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:23]: I don't think we really want `M` explicit here. Notice also that we generally group `Type` arguments at the beginning.
```suggestion
variable {R n M : Type*} [Field R] [DecidableEq n] [Fintype n]
```

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 10]
```diff
@@ -0,0 +1,81 @@
...
+  [AddCommGroup M] [Module R M]
+
+open Matrix
+open Module.End
+
+/-- Basis vectors are eigenvectors of associated diagonal linear operator. -/
+lemma hasEigenvector_toLin_diagonal (d : n → R) (i : n) (b : Basis n R M) :
+    Module.End.HasEigenvector (toLin b b (diagonal d)) (d i) (b i) := by
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:31]: You have this namespace open
```suggestion
    HasEigenvector (toLin b b (diagonal d)) (d i) (b i) := by
```

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 11]
```diff
@@ -0,0 +1,81 @@
...
+  constructor
+  · refine mem_eigenspace_iff.mpr ?left.a
+    simp only [diagonal, Pi.basisFun_apply, toLin'_apply, mulVec_stdBasis_apply, transpose_apply,
+      of_apply, Pi.smul_apply, LinearMap.stdBasis_apply', smul_eq_mul, mul_ite, mul_one, mul_zero]
+    all_goals simp_all
+  · exact Basis.ne_zero b i
+
+/--  Standard basis vectors are eigenvectors of any associated diagonal linear operator. -/
+lemma hasEigenvector_toLin'_diagonal (d : n → R) (i : n) :
+    Module.End.HasEigenvector (toLin' (diagonal d)) (d i) (Pi.basisFun R n i) :=
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:41]:
```suggestion
    HasEigenvector (toLin' (diagonal d)) (d i) (Pi.basisFun R n i) :=
```

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 12]
```diff
@@ -0,0 +1,81 @@
...
+-/
+
+import Mathlib.LinearAlgebra.Eigenspace.Basic
+
+/-!
+
+# Eigenvalues, Eigenvectors and Spectrum for Matrices
+
+This file collects results about eigenvectors, eigenvalues and spectrum specific to matrices
+over a field.
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:14]: I think only the last result needs `R` to be a field. The rest hold under weaker assumptions. Please try to minimize the assumptions you need on `R` by changing them per theorem as needed.

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 13]
```diff
@@ -0,0 +1,81 @@
...
+
+## Tags
+eigenspace, eigenvector, eigenvalue, eigen, spectrum, matrices, matrix
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:17]: I don't think we need all of these
```suggestion
eigenspace, eigenvector, eigenvalue, spectrum, matrix
```

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 14]
```diff
@@ -0,0 +1,81 @@
...
+    rw [h_iSup, disjoint_top] at this
+    exact h_eig this
+  · rintro ⟨i, rfl⟩
+    exact this i
+
+/-- Eigenvalues of a diagonal linear operator with respect to standard basis
+    are the diagonal entries. -/
+lemma hasEigenvalue_toLin'_diagonal_iff (d : n → R) {μ : R} :
+    HasEigenvalue (toLin' (diagonal d)) μ ↔ ∃ i, d i = μ := by
+  exact hasEigenvalue_toLin_diagonal_iff (n → R) d (Pi.basisFun R n)
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:71]: No need for `by exact`, and Lean can infer the other arguments besides the basis:
```suggestion
    HasEigenvalue (toLin' (diagonal d)) μ ↔ ∃ i, d i = μ :=
  hasEigenvalue_toLin_diagonal_iff _ _ <| Pi.basisFun R n
```

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 15]
```diff
@@ -0,0 +1,81 @@
...
+
+/-- The spectrum of the diagonal operator is the range of the diagonal viewed as a function. -/
+lemma spectrum_diagonal (d : n → R) :
+    spectrum R (diagonal d) = Set.range d := by
+  ext μ
+  rw [← AlgEquiv.spectrum_eq (toLinAlgEquiv <| Pi.basisFun R n),
+    ← hasEigenvalue_iff_mem_spectrum, Set.mem_range]
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:78]: :golfing:
```suggestion
  rw [← AlgEquiv.spectrum_eq (toLinAlgEquiv <| Pi.basisFun R n), ← hasEigenvalue_iff_mem_spectrum]
```

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean (hunk 12 above)
Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:14]: Cool. Will do this first thing tomorrow. Thanks!

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean (hunk 9 above)
Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:23]: Neat. I didn't know that. Thanks!

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean (hunk 11 above)
Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:36]: Ah I think I see. Both of these apply to the result below...

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 16]
```diff
@@ -0,0 +1,93 @@
...
+over a field.
+
+## Tags
+eigenspace, eigenvector, eigenvalue, spectrum, matrix
+
+-/
+
+section SpectrumDiagonal
+
+variable {R n M : Type*} [DecidableEq n][Fintype n]
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:23]:
```suggestion
variable {R n M : Type*} [DecidableEq n] [Fintype n]
```

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 17]
```diff
@@ -0,0 +1,93 @@
...
+  ⟨mem_eigenspace_iff.mpr <| by simp [diagonal], Basis.ne_zero b i⟩
+
+/--  Standard basis vectors are eigenvectors of any associated diagonal linear operator. -/
+lemma hasEigenvector_toLin'_diagonal (d : n → R) (i : n) :
+    HasEigenvector (toLin' (diagonal d)) (d i) (Pi.basisFun R n i)  :=
+  hasEigenvector_toLin_diagonal ..
+
+section NoZeroSMulDivisors
+
+variable [NoZeroSMulDivisors R M]
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:44]: I wouldn't create a section for one result, just add this hypothesis to the lemma

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean [hunk 18]
```diff
@@ -0,0 +1,93 @@
...
+lemma hasEigenvalue_toLin'_diagonal_iff (d : n → R) {μ : R} :
+    HasEigenvalue (toLin' (diagonal d)) μ ↔ (∃ i, d i = μ) :=
+  hasEigenvalue_toLin_diagonal_iff _ <| Pi.basisFun R n
+
+end NoZeroDivisors
+
+end NontrivialCommRing
+
+variable [Field R]
+
```
Comment (j-loreaux) [inline Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:85]: Again, don't use `variable` for one declaration, just add the hypothesis to the lemma.

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean (hunk 16 above)
Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:23]: Shoot! I keep doing this!!!!

**Comment by j-loreaux** [comment]
maintainer merge

File: Mathlib/LinearAlgebra/Eigenspace/Matrix.lean (hunk 12 above)
Comment (dupuisf) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:14]: Can you also adjust the docstring accordingly?

Comment (JonBannon) [reply Mathlib/LinearAlgebra/Eigenspace/Matrix.lean:14]: Certainly! I'll do this now...
